### ISSUE TITLE
RFC: `mvcgen` should automatically recurse into `let`-bound target assertions

### ISSUE THREAD

**Issue by rish987** [leanprover/lean4#9474]
### Proposal

In the following MWE, the call to `mvcgen [setZeroHead]` leaves us with a rather unsightly proof mode goal:

```lean
import Std.Tactic.Do

open Std.Do

set_option mvcgen.warning false

abbrev gns : SVal ((List Nat)::[]) (List Nat) := fun s => SVal.pure s

noncomputable def setZeroHead : StateM (List Nat) Unit := do
  modify fun _ => [1, 0, 1, 2, 3, 4, 5]
  pure ()
  modify fun s => s.tail
  pure ()

theorem setZeroHead_spec :
   ⦃⌜True⌝⦄
   setZeroHead
   ⦃⇓ _ => ⌜∃ ns', #gns = 0 :: ns'⌝⦄ := by
  mvcgen [setZeroHead]
  -- Goal:
  --
  -- s✝ : List Nat
  -- ⊢ 
  -- h✝ : ⌜True⌝ s✝
  -- ⊢ₛ
  -- have t := (PUnit.unit, [1, 0, 1, 2, 3, 4, 5]);
  -- (fun a =>
  --       wp⟦do
  --           pure ()
  --           MonadStateOf.modifyGet fun s => (PUnit.unit, s.tail)
  --           pure ()⟧
  --         ⇓x => ⌜∃ ns', #gns tuple = 0 :: ns'⌝,
  --       (⇓x => ⌜∃ ns', #gns tuple = 0 :: ns'⌝).snd).fst
  --   t.fst t.snd
  mintro t
  mvcgen
  mintro t
  mvcgen
  mleave
  exists t.2.tail
```

Before #9451, `mvcgen` would leave us at the state we see at `mleave` (but with the `t` let-binding definitions inlined). Now that `Spec.modifyGet_StateT` has a `let`-binding in its precondition, however, `mvcgen` gets stuck at the first call to `modify`, and we have to call `mintro t` and `mvcgen` manually to make progress. It seems that `mvcgen` should probably automatically handle the `mintro` steps so that the user doesn't have to intervene.

### Community Feedback

Follow-up to #9365. cc @sgraf812

**Comment by sgraf812** [comment]
In #9507, `mvcgen` does the `mintro _` for you. But one of the main points about `mintro`ing `let`s is that you want to give the binding a name. With the changed `mvcgen` that's no longer possible; you'll have to do
```
theorem setZeroHead_spec :
   ⦃⌜True⌝⦄
   setZeroHead
   ⦃⇓ _ => ⌜∃ ns', #gns = 0 :: ns'⌝⦄ := by
  mvcgen [setZeroHead] -- should mintro through let/have bindings
  mleave
  rename_i t
  exists t.2.tail
```
whereas in #9365 the solution was
```
theorem setZeroHead_spec :
   ⦃⌜True⌝⦄
   setZeroHead
   ⦃⇓ _ => ⌜∃ ns', (#gns).toList = 0 :: ns'⌝⦄ := by
  mvcgen [setZeroHead]
  -- We want `mintro`duce the tuple `t` here in order for us not having to repeat its
  -- definition in t.2.toList.tail below
  mintro t
  simp
  exists t.2.toList.tail
```

Not sure what's best. Perhaps the former? I'm a bit vary about encouraging use of `rename_i`. On the other hand, it's the best way to cope with inaccessibles we have 🤷 
Edit: Ah, in https://github.com/leanprover/lean4/issues/9365#issuecomment-3102840511 it sounds like you also prefer the former.

**Comment by rish987** [comment]
Hmm, I was thinking we could use the same binder name that was given in the spec (`t` in this case)? In your PR, you could extract this from `f` to pass as a parameter to `onLet`. This would of course still result in inaccessables when you use the same call more than once (as in this example), where previous `let` bindings would get shadowed by newer ones. But that might not be an issue, most of the time.

**Comment by sgraf812** [comment]
> Hmm, I was thinking we could use the same binder name that was given in the spec (t in this case)?

Hmm, that would be pretty unhygienic. `mspec`, `mframe` and `mvcgen` are quite unhygienic at the moment, but I fixed that in #9512.

**Comment by sgraf812** [comment]
After some reflection I'm convinced that merging #9507 is the right call.
